### PR TITLE
[Merged by Bors] - feat: Galois orbits in a normal extension are determined by minimal polynomials

### PR DESCRIPTION
**Pull request by alreadydone**
Add [Normal.minpoly_eq_iff_mem_orbit](https://github.com/leanprover-community/mathlib4/pull/8028/files#diff-d131e3bbd4cfdca7517989f6f30e131ae00a40b34315ac02e6c342c183b6e449R443-R457): addresses https://github.com/leanprover-community/mathlib4/pull/6718/files#r1328899532

Also generalize AlgHom.normal_bijective to `Algebra.IsAlgebraic.bijective_of_isScalarTower'` and golf the proof using a set-theoretic lemma `Surjective.of_comp_left` (slow to build, awaiting CI).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Function/Basic.lean [hunk 1]
```diff
@@ -141,6 +141,12 @@ theorem Injective.of_comp_iff' (f : α → β) {g : γ → α} (hg : Bijective g
   λ h => h.comp hg.injective⟩
 #align function.injective.of_comp_iff' Function.Injective.of_comp_iff'
 
+theorem Injective.of_comp_right {g : γ → α} (I : Injective (f ∘ g)) (hg : Surjective g) :
+    Injective f := fun x y h ↦ by
+  obtain ⟨x, rfl⟩ := hg x
+  obtain ⟨y, rfl⟩ := hg y
+  exact congr_arg g (I h)
```
Comment (eric-wieser) [inline Mathlib/Logic/Function/Basic.lean:148]: I think you can use this to golf the theorem above if you swap the order.

Comment (alreadydone) [reply Mathlib/Logic/Function/Basic.lean:139]: Thanks! Golfed the surjective counterpart as well.

**Comment by riccardobrasca** [comment]
Nice golf, thanks!

bors merge
